US08106070B2
Palladium tetrakis(triphenylphosphine) (169 mg, 0.15 mmol) was added to a degassed, ambient temperature solution of 1-tert-butyl 2-methyl 2-(4-bromobenzyl)-4,4-difluoropyrrolidine-1,2-dicarboxylate (634 mg, 1.46 mmol), 2-bromo-5-fluoropyridine (257 mg, 1.46 mmol), and hexamethylditin (478 mg, 1.46 mmol) in 1,4-dioxane (5 mL). After stirring at 110° C. overnight, potassium fluoride (50% on celite) was added. After stirring vigorously for a further 1 h, the reaction mixture was filtered, washed with water, dried (magnesium sulfate), filtered and concentrated in vacuo. Chromatography over silica eluting with 0-50% ethyl acetate/hexane afforded 1-tert-butyl 2-methyl 4,4-difluoro-2-[4-(5-fluoropyridin-2-yl)benzyl]pyrrolidine-1,2-dicarboxylate.

reactant | 1-tert-butyl 2-methyl 2-(4-bromobenzyl)-4,4-difluoropyrrolidine-1,2-dicarboxylate | 1.46 mmol, 634 mg | BrC1=CC=C(CC2(N(CC(C2)(F)F)C(=O)OC(C)(C)C)C(=O)OC)C=C1 | C18H22BrF2NO4
reactant | 2-bromo-5-fluoropyridine | 1.46 mmol, 257 mg | BrC1=NC=C(C=C1)F | C5H3BrFN
reactant | hexamethylditin | 1.46 mmol, 478 mg | C[Sn](C)C.C[Sn](C)C
reactant | potassium fluoride | [F-].[K+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | Palladium tetrakis(triphenylphosphine) | 0.15 mmol, 169 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | 1-tert-butyl 2-methyl 4,4-difluoro-2-[4-(5-fluoropyridin-2-yl)benzyl]pyrrolidine-1,2-dicarboxylate | FC1(CC(N(C1)C(=O)OC(C)(C)C)(C(=O)OC)CC1=CC=C(C=C1)C1=NC=C(C=C1)F)F | C23H25F3N2O4
